US09403835B2
Step 1: 6-bromo-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester
A mixture of bromomalonaldehyde (2.02 g; 13.38 mmol; 1 eq.) and 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (3 g; 13.38 mmol; 1 eq.) in AcOH (21 mL) was stirred at room temperature for 40 minutes. The insoluble material was removed by filtration and the solution diluted with water (60 mL). The precipitate was filtered off, washed with water (3×) and dried. Recrystallization from iPrOH afforded the title compound (2.02 g, 45%) as beige solid. 1H NMR (DMSO-d6) δ 9.60 (d, J=2.2 Hz, 1H), 8.60 (d, J=2.2 Hz, 1H), 4.62-4.55 (m, 4H), 1.47 (s, 9H). HPLC (max plot) 99.8%; Rt 3.54 min. UPLC/MS: (MS+) 339.3 and 341.3 ([M+H]+).

reactant | bromomalonaldehyde | 13.38 mmol, 2.02 g, 1 eq. | BrC(C=O)C=O | C3H3BrO2
reactant | 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 13.38 mmol, 3 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC2=NNC(=C2C1)N | C10H16N4O2
solvent | AcOH | 21 mL | CC(=O)O | C2H4O2
product | 6-bromo-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 2.02 g, 45% | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=CN3N2)Br)C1 | C13H15BrN4O2
